US05922737
Synthesis of (1-(2,2,2-trifluoroethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine
Prepare by the method of Preparation 14 using 2,2,2-trifluoroethyl trifluoromethanesulfonate and (1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine to give the title compound.

reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | (1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
product | (1-(2,2,2-trifluoroethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | FC(CN1C(=NC2=C1C=CC=C2)NC2CCNCC2)(F)F | C14H17F3N4
